US07994163B2
To a solution of 4-methylthiazole-2-thiol (0.32 g, 2.5 mmol) in anhydrous DMF (8.4 mL) add sodium hydride (0.10 g, 2.6 mmol, 60% dispersion in mineral oil) in portions at room temperature. After stirring at room temperature for 10 min, add a solution of 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.74 g, 2.2 mmol) in anhydrous DMF (5.6 mL). Heat the reaction mixture at 45° C. for 2 h under nitrogen atmosphere, cool to room temperature and stir overnight. Quench the reaction mixture with 10% aqueous NaHCO3 (14 mL) and extract the mixture three times with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel (40 g) eluting with hexane/EtOAc (1:0 to 85:15 gradient over 30 min; 35 mL/min) to obtain 3-tert-butoxycarbonyl-7-chloro-6-(4-methyl-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.753 g, 79%) as a white foam.

reactant | 4-methylthiazole-2-thiol | 2.5 mmol, 0.32 g | CC=1N=C(SC1)S | C4H5NS2
reactant | sodium hydride | 2.6 mmol, 0.10 g | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.2 mmol, 0.74 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
solvent | DMF | 8.4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.6 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonyl-7-chloro-6-(4-methyl-thiazol-2-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.753 g, 79% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC=2SC=C(N2)C | C20H25ClN2O2S2
